US04472193
Step 4: Preparation of 6-chloro-1,7-naphthyridine-2-one
A solution of 4.63 g (13 mmoles) of 2-chloro-5-((2,2-dimethyl-1-oxopropyl)amino)-β-hydroxy-4-pyridine propanoic acid, 1,1-dimethylethyl ester in 70 ml of dioxane and 30 ml of 3N HCl in water was warmed at reflux for a period of 4 hours. The solution was diluted with 100 ml of water and cooled to give a white precipitate. The crystals were filtered, washed with water and dried in a vacuum oven to give 2.18 g (93% of theoretical) of the above-captioned compound having a melting point of 304°-306° C. The carbon, hydrogen and nitrogen content calculated for C8H5ClN2O is C, 53.20; H, 2.79; and N, 15.52 percent by weight which compares to that actually found upon analysis of C, 53.55; H, 2.79; and N, 15.47.

reactant | 2-chloro-5-((2,2-dimethyl-1-oxopropyl)amino)-β-hydroxy-4-pyridine propanoic acid, 1,1-dimethylethyl ester | 13 mmoles, 4.63 g | ClC1=NC=C(C(=C1)C(CC(=O)OC(C)(C)C)O)NC(C(C)(C)C)=O | C17H25ClN2O4
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
solvent | HCl | 3N, 30 ml | Cl | ClH
solvent | water | O | H2O
solvent | water | 100 ml | O | H2O
product | 6-chloro-1,7-naphthyridine-2-one | ClC=1C=C2C=CC(NC2=CN1)=O | C8H5ClN2O
